US09382188B2
step 4) ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)hex-4-ynoate
Under a nitrogen atmosphere, to a solution of ethyl 3-(3-(hydroxymethyl)phenyl)hex-4-ynoate (100 mg) and 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-ol (117 mg) in THF (5.8 mL) were added 1,1′-(azodicarbonyl)dipiperidine (164 mg) and tributylphosphine (160 μL) at room temperature, and the mixture was stirred for 16 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (172 mg) as a colorless oil.

reactant | ethyl 3-(3-(hydroxymethyl)phenyl)hex-4-ynoate | 100 mg | OCC=1C=C(C=CC1)C(CC(=O)OCC)C#CC | C15H18O3
reactant | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-ol | 117 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)CC(C)(C)C | C18H21FO2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 164 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 160 μL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 5.8 mL | C1CCOC1 | C4H8O
product | ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)hex-4-ynoate | 172 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)C#CC)CC(C)(C)C | C33H37FO4
